chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Br:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[F-:2]>>[Br-:1].[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[C:21]#[N:22])(\[C:31]([H:32])([H:33])[H:34])[H:41].[F:2][H:3],8.703871053332517
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22].[F-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44].[F:2][H:3],9.281400598144195
[Br:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22].[F-:2]>>[Br-:1].[F:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22],14.914442761768614
[Br-:2].[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[H:21]>>[Br:2][C@@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([C:11]([H:12])([H:13])[H:14])[H:21].[F-:1],46.18517158523044
[Br:1][C@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[H:2][C@@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[N:21]([H:22])[H:23],22.222702193284725
[Cl:1][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22].[F-:2]>>[Cl-:1].[F:2][C:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[C:41]#[N:42])([C:11]#[N:12])[C:21]#[N:22],3.2076766304356394
[Br-:2].[Br:1][C@:5]([C:4]([H:3])([H:31])[H:41])([H:11])[C:21]#[N:22]>>[Br-:1].[Br:2][C@@:5]([C:4]([H:3])([H:31])[H:41])([H:11])[C:21]#[N:22],16.607254970158955
[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([H:11])[N+:21]([O-:22])[O:23].[H-:2]>>[Cl-:1].[H:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([H:11])[N+:21]([O-:22])[O:23],5.515498657880436
[Cl:1][C:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([H:11])[H:21].[H-:2]>>[C:4](=[C:5]([H:11])[H:21])([C:31]#[N:32])[H:41].[Cl-:1].[H:2][H:3],5.781260232840079
[Cl:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[Cl-:1].[H:2][C@@:5]([C@:4]([H:3])([C:31]#[N:32])[C:41]([H:42])([H:43])[H:44])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24],24.39688601666184
[Cl:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]#[N:22].[H-:2]>>[Cl-:1].[H:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]#[N:22],0.6492703077006441
[Br-:2].[Cl:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44])([H:11])[C:21]([H:22])([H:23])[H:24]>>[Br:2][H:3].[C:4](=[C:5](/[H:11])[C:21]([H:22])([H:23])[H:24])(\[N:31]([H:32])[H:33])[C:41]([H:42])([H:43])[H:44].[Cl-:1],30.82124351490059
[F:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]#[N:12])[H:21].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([C:31]#[N:32])[C:41]#[N:42])([C:11]#[N:12])[H:21],14.340939704516735
[Br:1][C@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[Cl-:2]>>[Br-:1].[Cl:2][C@@:5]([C:4]([H:3])([C:31]#[N:32])[H:41])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23],25.9169486912472
[Br-:2].[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N+:11]([O-:12])[O:13])[C:21]#[N:22]>>[Br:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([N+:11]([O-:12])[O:13])[C:21]#[N:22].[Cl-:1],26.19444583020875
[Cl-:2].[F:1][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22]>>[Cl:2][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22].[F-:1],28.391958398673488
[Cl:1][C@:5]([C@:4]([H:3])([C:31]#[N:32])[N:41]([H:42])[H:43])([H:11])[N:21]([H:22])[H:23].[F-:2]>>[C:4](=[C:5](/[H:11])[N:21]([H:22])[H:23])(\[C:31]#[N:32])[N:41]([H:42])[H:43].[Cl-:1].[F:2][H:3],12.934144154818766
[Cl:1][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[F-:2]>>[Cl-:1].[F:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[C:41]#[N:42])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],32.26152453861454
[Br:1][C:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22].[F-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44].[F:2][H:3],6.392456623704663
[F:1][C@:5]([C:4]([H:3])([H:31])[H:41])([N+:11]([O-:12])[O:13])[H:21].[H-:2]>>[C:4](=[C:5]([N+:11]([O-:12])[O:13])[H:21])([H:31])[H:41].[F-:1].[H:2][H:3],8.539304390442783
[Br:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[C:4](=[C:5]([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[F:2][H:3],19.765767151180192
[F:1][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([N+:31]([O-:32])[O:33])[H:41])([N:11]([H:12])[H:13])[N:21]([H:22])[H:23],36.20403446418234
